US08278482B2
1-(4-(2-Methyl-2-nitropropyl)piperazin-1-yl)ethanone
To a stirred ice cold solution of 2-nitropropane (3.5 mL, 38.9 mmol) and N-acetylpiperazine (5.0 g, 1 equiv, 39.6 mmol) was added dropwise a premixed solution of sodium hydroxide (156 μL, 5 N, 2 mol %) and a 37% aqueous solution of formaldehyde (2.9 mL, 1 equiv, 38.9 mmol) over 15 minutes maintaining an internal temperature between 10-15° C. The flask was removed from the ice bath and stirred at room temperature for 1 h. The reaction was then heated at 50° C. for 1 h. The biphasic mixture was cooled to room temperature and poured into a separatory funnel and diluted with ethyl acetate (150 mL) and water (50 mL). The layers were separated and the organic layer was washed with water (2×50 mL) and brine (50 mL). The organic layer was dried over anhydrous MgSO4, filtered and concentrated to a yellow liquid (7.20 g, 81%). This material was used without further purification. 1H NMR (CDCl3, 400 MHz): δ 1.57 (s, 6H), 2.06 (s, 3H), 2.50-2.55 (dt, J=5.6, 4H), 2.85 (s, 2H), 3.37-3.40 (t, J=5.0, 2H), 3.54-3.40 (t, J=4.8, 2H).

reactant | 2-nitropropane | 38.9 mmol, 3.5 mL | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | N-acetylpiperazine | 39.6 mmol, 5.0 g, 1 equiv | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | sodium hydroxide | 5 N, 156 μL | [OH-].[Na+]
reactant | formaldehyde | 38.9 mmol, 2.9 mL, 1 equiv | C=O | CH2O
product | 1-(4-(2-Methyl-2-nitropropyl)piperazin-1-yl)ethanone | CC(CN1CCN(CC1)C(C)=O)(C)[N+](=O)[O-] | C10H19N3O3
